US04582837
5-Hydroxy-2-(2'-methoxy-4'-methanesulfonylamino-phenyl)-benzimidazole
Quantities of 1.6 gm (10 mmol) of 4-hydroxy-1,2-phenylenediamine and 4.9 gm (20 mmol) of 2-methoxy-4-methanesulfonylamino-benzoic acid were refluxed for 1.5 hours, under stirring, in 80 ml of phosphorus oxychloride. The resulting dark solution was then decanted off to eliminate any undissolved components, the phosphorus oxychloride was distilled off in vacuo, and the residue was carefully mixed with 10 gm of crushed ice. Ten milliliters of 4N sodium hydroxide were added to the suspension thus obtained, and the resulting mixture was stirred for one hour at ambient temperature. It was then neutralized with concentrated hydrochloric acid, while being cooled, the solution was evaporated in vacuo to about 3 to 4 ml, the crude product precipitate was subjected to suction filtration, and the resultant crude product was purified by chromatography (250 gm of silica gel, eluant: methylene chloride with 5% ethanol).

reactant | 4-hydroxy-1,2-phenylenediamine | 10 mmol, 1.6 gm | OC1=CC(=C(C=C1)N)N | C6H8N2O
reactant | 2-methoxy-4-methanesulfonylamino-benzoic acid | 20 mmol, 4.9 gm | COC1=C(C(=O)O)C=CC(=C1)NS(=O)(=O)C | C9H11NO5S
reactant | hydrochloric acid | Cl | ClH
solvent | phosphorus oxychloride | 80 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Hydroxy-2-(2'-methoxy-4'-methanesulfonylamino-phenyl)-benzimidazole | OC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)NS(=O)(=O)C)OC)C=C1 | C15H15N3O4S
